US07635699B2
To a stirred solution of 6-tert-butyl 2-ethyl 5-(2,4-dichlorophenyl)-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine-2,6-dicarboxylate (191 mg, 0.42 mmol) in acetone (5 mL) was added KMnO4 (66 mg, 0.42 mmol). After 1 h, the reaction was filtered through celite and concentrated under reduced pressure. The resulting residue was diluted with CH2Cl2 and extracted with H2O (2×). The organic layer was dried over MgSO4, concentrated under reduced pressure and recrystallized from EtOAc to obtain 6-tert-butyl 2-ethyl 5-(2,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyrimidine-2,6-dicarboxylate (107 mg, 57%) as white crystals.

reactant | 6-tert-butyl 2-ethyl 5-(2,4-dichlorophenyl)-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine-2,6-dicarboxylate | 0.42 mmol, 191 mg | ClC1=C(C=CC(=C1)Cl)C1C(=C(NC=2N1C=C(N2)C(=O)OCC)C)C(=O)OC(C)(C)C | C21H23Cl2N3O4
reactant | KMnO4 | 0.42 mmol, 66 mg | [O-][Mn](=O)(=O)=O.[K+]
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 6-tert-butyl 2-ethyl 5-(2,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyrimidine-2,6-dicarboxylate | 107 mg, 57% | ClC1=C(C=CC(=C1)Cl)C1=C(C(=NC=2N1C=C(N2)C(=O)OCC)C)C(=O)OC(C)(C)C | C21H21Cl2N3O4
